US06734180B1
To 2-(tert-butoxycarbonylamino)-5-hydroxyindan (130 mg, 0.50 mmol) synthesized in the above Preparation Example 1 was added 4N hydrochloric acid-dioxane (2.3 ml) and acetic acid (6.9 ml), and the mixture was stirred at room temperature for 10 minutes. By distilling off the solvent under reduced pressure, 2-amino-5-hydroxyindan hydrochloride was obtained as a crude product. This was dissolved in ethanol (3 ml). Using triethylamine (0.14 ml, 1.0 mmol), 4-chloro-5-methylthieno[2,3-d]pyrimidine (83 mg, 0.60 mmol), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (methylene chloride:ethyl acetate=2:1) to obtain the title compound (17 mg, 0.057 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)-5-hydroxyindan | 0.50 mmol, 130 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)O | C14H19NO3
reactant | hydrochloric acid dioxane | 4N, 2.3 ml | Cl.O1CCOCC1
solvent | acetic acid | 6.9 ml | C(C)(=O)O | C2H4O2
product | 2-amino-5-hydroxyindan hydrochloride | Cl.NC1CC2=CC=C(C=C2C1)O | InChI=1S/C9H11NO.ClH/c10-8-3-6-1-2-9(11)5-7(6)4-8;/h1-2,5,8,11H,3-4,10H2;1H
